US06673818B2
1-[3,5-difluoro-4-(methylthio)phenyl]-4,4,4-trifluoro-butane-1,3-dione (1.09 g, 3.6 mmol) dissolved in ethanol (150 mL). One drop of concentrated hydrochloric acid was added and 4-fluorophenylhydrazine hydrochloride (0.69 g, 4.0 mmol). The reaction was stirred at ambient temperature for 72 hours. Solvent was removed in vacuo and the residue was dissolved in ethyl acetate (100 mL) extracted with water (2×100 mL), saturated ammonium chloride (2×150 mL) and dried over sodium sulfate. The solvent was removed in vacuo and the 5-[3,5-difluoro-4-(methylthio)-phenyl]-1-(4-fluorophenyl)-3-(trifluoromethyl)-1H-pyrazole was obtained by crystallization from ethyl acetate and hexanes (0.71 g, 50%). 1H NMR (CDCl3/300 MHz) 7.36-7.29 (m, 2H), 7.18-7.13 (m, 2H), 6.81-6.77 (m, 3H), 2.53 (s, 3H). ESHRMS m/z 389.0557 (M+H+, Calcd 389.0547). Anal. Calcd for C17H10F6N2S: C, 52.58; H, 2.34; N, 7.21; Found: C, 52.45; H, 2.34; N, 7.15.

reactant | 1-[3,5-difluoro-4-(methylthio)phenyl]-4,4,4-trifluoro-butane-1,3-dione | 3.6 mmol, 1.09 g | FC=1C=C(C=C(C1SC)F)C(CC(C(F)(F)F)=O)=O | C11H7F5O2S
reactant | 4-fluorophenylhydrazine hydrochloride | 4.0 mmol, 0.69 g | Cl.FC1=CC=C(C=C1)NN
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | hydrochloric acid | One drop | Cl | ClH
product | 5-[3,5-difluoro-4-(methylthio)-phenyl]-1-(4-fluorophenyl)-3-(trifluoromethyl)-1H-pyrazole | FC=1C=C(C=C(C1SC)F)C1=CC(=NN1C1=CC=C(C=C1)F)C(F)(F)F | C17H10F6N2S
